US06326386B1
{2-[3-(Propyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
A suspension of 5% Pd on carbon (0.01 g) in a solution of {2-[3-(allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic-acid tert-butyl ester (0.07 g) in toluene (10 ml) was stirred under an atmosphere of hydrogen for 2 h. The catalyst was filtered through diatomaceous earth and the filtrate evaporated to give the title compound as a pale yellow gum (0.07 g).

reactant | {2-[3-(allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic-acid tert-butyl ester | 0.07 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCCC1)CC=C)=O)=O | C27H34ClN3O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd on carbon | 0.01 g | [Pd] | Pd
product | {2-[3-(Propyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.07 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCCC1)CCC)=O)=O | C27H36ClN3O4
